US09388161B2
Step 5. (S)-methyl 5-cyclobutoxy-6-(1-(3-hydroxycyclobutyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate
Palladium on carbon (10 wt %, 0.060 g) was added to a solution of (S)-methyl 6-(1-(3-(benzyloxy)cyclobutyl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.060 g, 0.12 mmol) in methanol (10 mL), and the resulting mixture stirred at room temperature under an atmosphere of hydrogen for 16 h. The reaction mixture was filtered, and the filtrate was concentrated under vacuum. The residue was purified by preparative-HPLC with the following conditions (Waters I): Column, XBridge Prep Shield RP18 OBD Column, 19×150 mm, 5 um; mobile phase, Water (0.05% ammonium bicarbonate) and acetonitrile (30% to 50% acetonitrile in 10 min, flow rate: 20 mL/min); Detector, UV254&220 nm. This afforded (S)-methyl 5-cyclobutoxy-6-(1-(3-hydroxycyclobutyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.031 g, 63%) as a white solid. 1H NMR (300 MHz, CD3OD) δ ppm 1.16 (d, J=6.30 Hz, 3H), 1.32-1.51 (m, 2H), 1.55-1.68 (m, 1H), 2.00-2.33 (m, 5H), 2.33-2.58 (m, 3H), 2.76-2.84 (m, 2H), 2.93-3.01 (m, 1H), 3.77 (s, 3H), 4.12-4.19 (m, 1H), 4.51-4.64 (m, 2H), 4.99-5.08 (m, 1H), 7.24-7.35 (m, 2H), 7.86 (s, 1H), 8.04 (s, 1H). MS (ESI, pos. ion) m/z 412 [M+H]+.

reactant | (S)-methyl 6-(1-(3-(benzyloxy)cyclobutyl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.12 mmol, 0.060 g | C(C1=CC=CC=C1)OC1CC(C1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C30H35N3O4
catalyst | Palladium on carbon | 0.060 g | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (S)-methyl 5-cyclobutoxy-6-(1-(3-hydroxycyclobutyl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC(C1)O)C(=O)OC)C | C23H29N3O4
